US06727232B2
14-[5-((R)-{[(3R,4S,5R)-5-(Aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-3-hexyl-2,4-dioxo-1-imidazolidinyl]-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11-tetraazatetradecan-1-oic acid
The title compound is prepared by the procedure of Example 1, using 47.3 mg (50 μmol) of 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid (λmax nm in water=259) in 3.0 ml of methanol, 200 μl of pyridine, 200 μl of 2,4-pentanedione and 50 μmol of hexylisocyanate to give 15 mg of the desired product.

reactant | 16-({[5-(aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11,15-pentaazaheptadecane-1,17-dioic acid | 50 μmol, 47.3 mg | NCC1C(C(C(O1)OC(C(NCCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)C(=O)O)C1OC(C(C1O)O)N1C(NC(C=C1)=O)=O)OC)O | C38H63N11O17
reactant | hexylisocyanate | 50 μmol | C(CCCCC)N=C=O | C7H13NO
solvent | methanol | 3.0 ml | CO | CH4O
solvent | pyridine | 200 μl | N1=CC=CC=C1 | C5H5N
solvent | 2,4-pentanedione | 200 μl | CC(CC(C)=O)=O | C5H8O2
product | 14-[5-((R)-{[(3R,4S,5R)-5-(Aminomethyl)-4-hydroxy-3-methoxytetrahydro-2-furanyl]oxy}{(2S,3S,4R,5R)-5-[2,4-dioxo-3,4-dihydro-1 (2H)-pyrimidinyl]-3,4-dihydroxytetrahydro-2-furanyl}methyl)-3-hexyl-2,4-dioxo-1-imidazolidinyl]-9-(1-hydroxy-2-methylpropyl)-6-(2-iminohexahydro-4-pyrimidinyl)-2-isopropyl-4,7,10-trioxo-3,5,8,11-tetraazatetradecan-1-oic acid | 15 mg | NC[C@@H]1[C@@H]([C@H](C(O1)O[C@H](C1C(N(C(N1CCCNC(C(NC(C(NC(NC(C(=O)O)C(C)C)=O)C1NC(NCC1)=N)=O)C(C(C)C)O)=O)=O)CCCCCC)=O)[C@H]1O[C@H]([C@@H]([C@@H]1O)O)N1C(NC(C=C1)=O)=O)OC)O | C45H74N12O17
